US04724246
5-[2-(4-hydroxy-3,5-di-tert-butylphenyl)ethyl]-1,3,4-oxathiazol-2-one
A suspension of 13.45 grams of 3-[4-hydroxy-3,5-di- tert-butylphenyl]propionamide in 150 ml of toluene is admixed with 20.22 grams of chlorocarbonyl sulfenyl chloride added dropwise. After heating the reaction mixture at 60° C. for 20 hours, the solvent is removed under reduced pressure. The residue is recrystallized from heptane to give the title compound as a pale yellow crystalline solid: mp 82°-86° C.

reactant | 3-[4-hydroxy-3,5-di- tert-butylphenyl]propionamide | 13.45 grams | OC1=C(C=C(C=C1C(C)(C)C)CCC(=O)N)C(C)(C)C | C17H27NO2
reactant | chlorocarbonyl sulfenyl chloride | 20.22 grams | ClC(=O)SCl | CCl2OS
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[2-(4-hydroxy-3,5-di-tert-butylphenyl)ethyl]-1,3,4-oxathiazol-2-one | OC1=C(C=C(C=C1C(C)(C)C)CCC1=NSC(O1)=O)C(C)(C)C | C18H25NO3S
